US06747023B1
1,4-Di(tert-butoxycarbonyl)-2-(2-phenoxyethyl)piperazine
To a solution of 1,4-di(tert-butoxycarbonyl)-2-(2-hydroxyethyl)piperazine (0.660 g, 2 mmol) and triphenylphosphine (0.577 g, 2.2 mmol) in tetrahydrofuran (10 ml) were added a solution of phenol (0.188 g, 2 mmol) in tetrahydrofuran (5 ml) and diethyl azodicarboxylate (0.35 ml, 2.2 mmol), followed by stirring at room temperature for 4 hours. The reaction mixture was purified by flash column chromatography (ethyl acetate/n-hexane=1/4) using as a carrier silica gel, whereby the title compound (0.611 g, 75%) was obtained as a colorless solid.

reactant | 1,4-di(tert-butoxycarbonyl)-2-(2-hydroxyethyl)piperazine | 2 mmol, 0.660 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCO | C16H30N2O5
reactant | triphenylphosphine | 2.2 mmol, 0.577 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 2 mmol, 0.188 g | C1(=CC=CC=C1)O | C6H6O
reactant | diethyl azodicarboxylate | 2.2 mmol, 0.35 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1,4-Di(tert-butoxycarbonyl)-2-(2-phenoxyethyl)piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCOC1=CC=CC=C1 | C22H34N2O5
